### PR TITLE
refactor: Rename dropPairEmb to Fin.succSuccAbove

### PR DESCRIPTION
**Pull request by jstoobysmith**
Rename `dropPairEmb` to the more descriptive name `Fin.succSuccAbove`, and seperate results surrounding this into there own file.

### CODE REVIEW

**Comment by jstoobysmith** [comment]
RFC

File: Physlib/Relativity/Tensors/Basic.lean [hunk 1]
```diff
@@ -678,6 +679,52 @@ lemma PermCond.comp {n n1 n2 : ℕ} {c : Fin n → C} {c1 : Fin n1 → C}
...
+  · simp [hij2]
+
+open Fin in
+lemma PermCond.append_right_succSuccAbove {n n1 : ℕ} {c : Fin (n + 1 + 1) → C}
+    {c1 : Fin n1 → C} (i j : Fin (n + 1 + 1)) (hij : i ≠ j ∧ S.τ (c i) = c j) :
+    PermCond (Fin.append c1 c ∘ (Fin.succSuccAbove (finSumFinEquiv (m := n1) (Sum.inr i))
+        (finSumFinEquiv (m := n1) (Sum.inr j))))
+      (Fin.append c1 (c ∘ (i.succSuccAbove j))) id := by
+  apply And.intro (Function.bijective_id)
+  simp [Fin.forall_fin_add]
```
Comment (morrison-daniel) [inline Physlib/Relativity/Tensors/Basic.lean]: simp only

File: Physlib/Relativity/Tensors/Contraction/SuccSuccAbove.lean [hunk 2]
```diff
@@ -0,0 +1,567 @@
...
+    rw [← OrderEmbedding.range_inj]
+    simp only [RelEmbedding.coe_mk, Function.Embedding.coeFn_mk, Set.range_comp,
+      succSuccAbove_range hij2, fl, fr, j2', i2']
+    rw [succSuccAbove_range (by simp [hij1])]
+    rw [succSuccAbove_image_compl, succSuccAbove_image_compl]
+    congr 1
+    rw [Set.image_pair, Set.image_pair]
+    simp only [succSuccAbove_predPredAbove, i2', j2']
+    exact Set.union_comm {i1, j1} {(succSuccAbove i1 j1) i2, (succSuccAbove i1 j1) j2}
+    simp [hij2]
```
Comment (morrison-daniel) [inline Physlib/Relativity/Tensors/Contraction/SuccSuccAbove.lean]: Combine simps

**Review by morrison-daniel — COMMENTED** [review]
I would also add a TODO to come back to the definition of `sucSuccAbove` because I think we can simplify it greatly by rewriting in terms of more basic function on `Fin` which would clean up a lot.

File: Physlib/Relativity/Tensors/Contraction/SuccSuccAbove.lean (hunk 2 above)
Comment (jstoobysmith) [reply Physlib/Relativity/Tensors/Contraction/SuccSuccAbove.lean]: Fixed - multiline issue.

File: Physlib/Relativity/Tensors/Basic.lean (hunk 1 above)
Comment (jstoobysmith) [reply Physlib/Relativity/Tensors/Basic.lean]: Fixed

**Comment by jstoobysmith** [comment]
@morrison-daniel  Fixed these comments, I added the TODO item. I've actually tried to make the replacement of `succSuccAbove` to predefined functions in Mathlib in the past - I can't determine a nice way of doing it, with the same computability properties.

**Comment by morrison-daniel** [comment]
Looks like something broke when golfing

**Comment by jstoobysmith** [comment]
@morrison-daniel Should have fixed the build now. Sorry about this.

-awaiting-author

**Review by morrison-daniel — APPROVED** [review]
